datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C[NH:10]CC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)C[NH+:10](CC(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[NH+](C)C([O-])[O-:10].Oc1cccc(O)c1[O:21][H:20]>>C[NH+](C)C([O-])[O:10][H:20].Oc1cccc(O)c1[O-:21] 10=20;20,21=21",
"CCCC[N+:21](CC(C)O)(CC(C)O)[H:20].FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1>>CCCC[N:21](CC(C)O)CC(C)O.FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"O=C([O-])CC(c1ccccn1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CC(c1ccccn1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CCC2C[NH+:10]([H:20])CCC2C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Clc1cc(I)c([O:21][H:20])c2ncccc12.NCCCCCCCCCCCC[NH2:10]>>Clc1cc(I)c([O-:21])c2ncccc12.NCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)C(=O)C[S:21][H:20].CSc1nc(N)[n:10][nH]1>>CN(C)C(=O)C[S-:21].CSc1nc(N)[n+:10]([H:20])[nH]1 10=20;20,21=21",
"CCCSCC[NH2+:21][H:20].C[NH+](C)c1ccc2c(c1)Sc1cc([N:10](C)C)ccc1N2>>CCCSCC[NH2:21].C[NH+](C)c1ccc2c(c1)Sc1cc([N+:10](C)(C)[H:20])ccc1N2 10=20;20,21=21",
"C(=N\[O-:10])\c1ccccc1.O=C(c1csc2ccccc12)[O:21][H:20]>>C(=N\[O:10][H:20])\c1ccccc1.O=C(c1csc2ccccc12)[O-:21] 10=20;20,21=21",
"Cc1cccc(C(C)C)c1[O-:10].c1csc(-c2scc[n+:21]2[H:20])n1>>Cc1cccc(C(C)C)c1[O:10][H:20].c1csc(-c2scc[n:21]2)n1 10=20;20,21=21",
"C[n+]1ccccc1/C=N/[O:21][H:20].Cc1ncc(CO)c(CO)c1[O-:10]>>C[n+]1ccccc1/C=N/[O-:21].Cc1ncc(CO)c(CO)c1[O:10][H:20] 10=20;20,21=21",
"C=CC(OCC(C)O)[O:21][H:20].CC[N:10](CC)C(C)C=C(c1cccs1)c1cccs1>>C=CC(OCC(C)O)[O-:21].CC[N+:10](CC)(C(C)C=C(c1cccs1)c1cccs1)[H:20] 10=20;20,21=21",
"C=C=C(C)C(C)(C)C(=O)[O-:10].c1ccc2c(c1)cc1ccccc1[n+:21]2[H:20]>>C=C=C(C)C(C)(C)C(=O)[O:10][H:20].c1ccc2c(c1)cc1ccccc1[n:21]2 10=20;20,21=21",
"CC(C)(C)CCC(=O)[O:21][H:20].CO[C@H]1CC=C2CC[N:10]3CCC(CO)=C(CCO)[C@]23C1>>CC(C)(C)CCC(=O)[O-:21].CO[C@H]1CC=C2CC[N+:10]3([H:20])CCC(CO)=C(CCO)[C@]23C1 10=20;20,21=21",
"CCOCCn1c(CN2CC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.CN(C)c1ccc[n+:21]([H:20])c1>>CCOCCn1c(CN2CC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.CN(C)c1ccc[n:21]c1 10=20;20,21=21",
"CCc1cc(CC)c([O:21][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.O=C([O-])c1cccc[n:10]1>>CCc1cc(CC)c([O-:21])c(C(=O)NCC2CCC[NH+]2CC)c1OC.O=C([O-])c1cccc[n+:10]1[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].OCC(C[S-])[S-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].OCC(C[S-])[S:10][H:20] 10=20;20,21=21",
"CC=C(C(=O)[O:21][H:20])c1ccc([N+](=O)[O-])cc1.O=Cc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>CC=C(C(=O)[O-:21])c1ccc([N+](=O)[O-])cc1.O=Cc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"Brc1c[n+](CC[O-:10])cc2ccccc12.C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>Brc1c[n+](CC[O:10][H:20])cc2ccccc12.C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1ccc([NH2+]CC[NH:10]c2ccc(C)cc2)cc1.O=C([O-])c1ccc([O:21][H:20])c([N+](=O)[O-])c1>>Cc1ccc([NH2+]CC[NH+:10](c2ccc(C)cc2)[H:20])cc1.O=C([O-])c1ccc([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"C#CC[NH+:21](CC#C)[H:20].O=C(c1ccccc1)[S-:10]>>C#CC[NH:21]CC#C.O=C(c1ccccc1)[S:10][H:20] 10=20;20,21=21",
"C(Cc1nnn[n-]1)NCC[NH:10]CCc1nnn[n-]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C(Cc1nnn[n-]1)NCC[NH+:10](CCc1nnn[n-]1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH+:21]1[H:20].COC(=O)C1=CCC[N:10](C)C1>>CC1CCCC(C)(C)[NH:21]1.COC(=O)C1=CCC[N+:10](C)([H:20])C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC1[C@H](N)[C@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1[C@H](N)[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CN1C(=O)c2[nH]cnc2[N-:10]C1=O.Cc1c[nH]c(C(=O)[O:21][H:20])c1>>CN1C(=O)c2[nH]cnc2[N:10]([H:20])C1=O.Cc1c[nH]c(C(=O)[O-:21])c1 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1OC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(C[NH2+:10][H:20])cc1OC.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CNc1nnc(S(=O)(=O)[NH:21][H:20])s1.C[C@@H]1C[NH:10][C@@H](C)CN1>>CNc1nnc(S(=O)(=O)[NH-:21])s1.C[C@@H]1C[NH+:10]([H:20])[C@@H](C)CN1 10=20;20,21=21",
"C=C[C@]1(O)C[N:10]2CC[C@H]1C[C@@H]2[C@@H](O)c1ccnc2ccc(OC)cc12.COc1ccc2ccc(OC)c([N+:21]3([H:20])CCOCC3)c2c1N1CCOCC1>>C=C[C@]1(O)C[N+:10]2([H:20])CC[C@H]1C[C@@H]2[C@@H](O)c1ccnc2ccc(OC)cc12.COc1ccc2ccc(OC)c([N:21]3CCOCC3)c2c1N1CCOCC1 10=20;20,21=21",
"CCSC(C)=[O+:21][H:20].COc1ccc(C(=S)[N-:10]c2ccccc2)cc1>>CCSC(C)=[O:21].COc1ccc(C(=S)[N:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]C(c1cccc(O)c1[O-:10])P(=O)([O-])[O-]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]C(c1cccc(O)c1[O:10][H:20])P(=O)([O-])[O-] 10=20;20,21=21",
"O=C([O-])c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
